### PR TITLE
[Merged by Bors] - refactor: make several NonUnitalAlgHom definitions take a particular algebra homomorphism

### PR DESCRIPTION
**Pull request by grunweg**
as opposed to a `NonUnitalAlgHomClass`.
Specifically, this PR changes `NonUnitalSubalgebra.{map, comap}` as well as `NonUnitalAlgHom.{range,rangeRestrict,codRestrict,equalizer}`.

Since this removes all uses of a bundled morphism class, we also remove the assocated variable lines
and align them with standard mathlib style.

Adapt (almost) all theorems about them to take in a concrete morphism also.

This follows the general patterns established in #31365:
> we should restrict definitions to explicit morphisms, instead of morphism classes in order to avoid proliferating definitions.

> Given a definition Bar that takes FooHom as an argument, a theorem whose statement involves Bar should only ever be written for FooHoms and never FooHomClasses. Indeed in the latter case, the statement would require the coercion from the morphism class to the morphism, thereby making it less general.

---

Continuation of #43377.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean [hunk 1]
```diff
@@ -515,15 +516,16 @@ def equalizer (ϕ ψ : F) : NonUnitalSubalgebra R A where
...
   Iff.rfl
 
 /-- The range of a morphism of algebras is a fintype, if the domain is a fintype.
 
 Note that this instance can cause a diamond with `Subtype.fintype` if `B` is also a fintype. -/
-instance fintypeRange [Fintype A] [DecidableEq B] (φ : F) :
-    Fintype (NonUnitalAlgHom.range φ) :=
+instance fintypeRange {F : Type*} [FunLike F A B] [NonUnitalAlgHomClass F R A B]
+    [Fintype A] [DecidableEq B] (φ : F) :
+    Fintype (NonUnitalAlgHomClass.toNonUnitalAlgHom φ).range :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]: This is syntactically less general than
```suggestion
    Fintype φ.range :=
```
for `φ : A →ₙₐ[R] B`

File: Mathlib/Algebra/Star/NonUnitalSubalgebra.lean [hunk 2]
```diff
@@ -449,32 +449,29 @@ protected def range (φ : A →⋆ₙₐ[R] B) : NonUnitalStarSubalgebra R B whe
...
 
 theorem range_comp_le_range (f : A →⋆ₙₐ[R] B) (g : B →⋆ₙₐ[R] C) :
-    NonUnitalStarAlgHom.range (g.comp f) ≤ NonUnitalStarAlgHom.range g :=
+    (g.comp f).range ≤ g.range :=
   SetLike.coe_mono (Set.range_comp_subset_range f g)
 
 /-- Restrict the codomain of a non-unital star algebra homomorphism. -/
-def codRestrict
-    (f : A →⋆ₙₐ[R] B) (S : NonUnitalStarSubalgebra R B) (hf : ∀ x, f x ∈ S) : A →⋆ₙₐ[R] S where
+def codRestrict {F : Type*} [FunLike F A B] [NonUnitalAlgHomClass F R A B] [StarHomClass F A B]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/NonUnitalSubalgebra.lean]: Isn't this doing the opposite of the PR description?

Comment (grunweg) [reply Mathlib/Algebra/Star/NonUnitalSubalgebra.lean]: Yes. I reverted a change to make the proofs below compile again. It would be nice to fix the proofs properly.

In general, this PR is not ready for review yet; there are still failures to work through. Help with those is welcome, there's enough work here for everybody :-)

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]: Still wrapping my head around these topics... yes, you're right. Thanks (fixed now).

File: Mathlib/Algebra/Star/NonUnitalSubalgebra.lean [hunk 3]
```diff
@@ -503,8 +499,17 @@ abbrev rangeRestrict (f : A →⋆ₙₐ[R] B) :
 
 /-- The equalizer of two non-unital star `R`-algebra homomorphisms -/
 def equalizer (ϕ ψ : A →⋆ₙₐ[R] B) : NonUnitalStarSubalgebra R A where
-  toNonUnitalSubalgebra := NonUnitalAlgHom.equalizer ϕ ψ
-  star_mem' := @fun x (hx : ϕ x = ψ x) => by simp [map_star, hx]
+  toNonUnitalSubalgebra := NonUnitalAlgHom.equalizer ϕ ψ.toNonUnitalAlgHom
+  star_mem' := by
```
Comment (grunweg) [inline Mathlib/Algebra/Star/NonUnitalSubalgebra.lean]: Here's a hacky fix for the broken proof. Help diagnosing this is welcome. (Otherwise, I will get to it... in due time.)

File: Mathlib/Algebra/Star/NonUnitalSubalgebra.lean [hunk 4]
```diff
@@ -449,32 +449,28 @@ protected def range (φ : A →⋆ₙₐ[R] B) : NonUnitalStarSubalgebra R B whe
...
   SetLike.coe_mono (Set.range_comp_subset_range f g)
 
 /-- Restrict the codomain of a non-unital star algebra homomorphism. -/
-def codRestrict
-    (f : A →⋆ₙₐ[R] B) (S : NonUnitalStarSubalgebra R B) (hf : ∀ x, f x ∈ S) : A →⋆ₙₐ[R] S where
+def codRestrict (f : A →⋆ₙₐ[R] B) (S : NonUnitalStarSubalgebra R B) (hf : ∀ x, f x ∈ S) :
+    A →⋆ₙₐ[R] S where
   toNonUnitalAlgHom := NonUnitalAlgHom.codRestrict f S.toNonUnitalSubalgebra hf
-  map_star' := fun a => Subtype.ext <| map_star f a
+  map_star' := fun a => Subtype.ext <| by exact map_star f a
```
Comment (grunweg) [inline Mathlib/Algebra/Star/NonUnitalSubalgebra.lean]: I don't understand (yet) why this change is now necessary...

File: Mathlib/Algebra/Star/NonUnitalSubalgebra.lean (hunk 3 above)
Comment (themathqueen) [reply Mathlib/Algebra/Star/NonUnitalSubalgebra.lean]: I'll check it out

File: Mathlib/Algebra/Star/NonUnitalSubalgebra.lean [hunk 5]
```diff
@@ -503,8 +499,17 @@ abbrev rangeRestrict (f : A →⋆ₙₐ[R] B) :
...
+  star_mem' := by
+    intro x hx
+    simp only [AddSubsemigroup.mem_carrier, AddSubmonoid.mem_toSubsemigroup,
+      NonUnitalSubsemiring.mem_toAddSubmonoid, NonUnitalSubalgebra.mem_toNonUnitalSubsemiring,
+      NonUnitalAlgHom.mem_equalizer, coe_toNonUnitalAlgHom] at hx
+    simp only [AddSubsemigroup.mem_carrier, AddSubmonoid.mem_toSubsemigroup,
+      NonUnitalSubsemiring.mem_toAddSubmonoid, NonUnitalSubalgebra.mem_toNonUnitalSubsemiring,
+      NonUnitalAlgHom.mem_equalizer, coe_toNonUnitalAlgHom, map_star, ← hx]
+    change ϕ (star x) = star (ϕ x)
+    exact map_star ..
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/NonUnitalSubalgebra.lean]: easy fix! one of the morphisms was abusing the coercion while the other was using an explicit one. So:
```suggestion
  toNonUnitalSubalgebra := NonUnitalAlgHom.equalizer ϕ.toNonUnitalAlgHom ψ.toNonUnitalAlgHom
  star_mem' := @fun x (hx : ϕ x = ψ x) => by simp [map_star, hx]
```

File: Mathlib/Algebra/Star/NonUnitalSubalgebra.lean [hunk 6]
```diff
@@ -449,32 +449,28 @@ protected def range (φ : A →⋆ₙₐ[R] B) : NonUnitalStarSubalgebra R B whe
...
-    NonUnitalStarAlgHom.range (g.comp f) ≤ NonUnitalStarAlgHom.range g :=
+    (g.comp f).range ≤ g.range :=
   SetLike.coe_mono (Set.range_comp_subset_range f g)
 
 /-- Restrict the codomain of a non-unital star algebra homomorphism. -/
-def codRestrict
-    (f : A →⋆ₙₐ[R] B) (S : NonUnitalStarSubalgebra R B) (hf : ∀ x, f x ∈ S) : A →⋆ₙₐ[R] S where
+def codRestrict (f : A →⋆ₙₐ[R] B) (S : NonUnitalStarSubalgebra R B) (hf : ∀ x, f x ∈ S) :
+    A →⋆ₙₐ[R] S where
   toNonUnitalAlgHom := NonUnitalAlgHom.codRestrict f S.toNonUnitalSubalgebra hf
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/NonUnitalSubalgebra.lean]: same here, by doing the following, you can return to the previous proof

```suggestion
  toNonUnitalAlgHom := NonUnitalAlgHom.codRestrict f.toNonUnitalAlgHom S.toNonUnitalSubalgebra hf
```

File: Mathlib/Algebra/Star/NonUnitalSubalgebra.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/Algebra/Star/NonUnitalSubalgebra.lean]: Of course. Thanks for investigating!

File: Mathlib/Algebra/Star/NonUnitalSubalgebra.lean [hunk 7]
```diff
@@ -449,32 +449,28 @@ protected def range (φ : A →⋆ₙₐ[R] B) : NonUnitalStarSubalgebra R B whe
...
 
 /-- Restrict the codomain of a non-unital star algebra homomorphism. -/
-def codRestrict
-    (f : A →⋆ₙₐ[R] B) (S : NonUnitalStarSubalgebra R B) (hf : ∀ x, f x ∈ S) : A →⋆ₙₐ[R] S where
-  toNonUnitalAlgHom := NonUnitalAlgHom.codRestrict f S.toNonUnitalSubalgebra hf
-  map_star' := fun a => Subtype.ext <| map_star f a
+def codRestrict (f : A →⋆ₙₐ[R] B) (S : NonUnitalStarSubalgebra R B) (hf : ∀ x, f x ∈ S) :
+    A →⋆ₙₐ[R] S where
+  toNonUnitalAlgHom := NonUnitalAlgHom.codRestrict f.toNonUnitalAlgHom S.toNonUnitalSubalgebra hf
+  map_star' := fun a => Subtype.ext <| by exact map_star f a
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/NonUnitalSubalgebra.lean]:
```suggestion
  map_star' := fun a => Subtype.ext <| map_star f a
```

Comment (grunweg) [reply Mathlib/Algebra/Star/NonUnitalSubalgebra.lean]: That doesn't work for me in VS Code: I get an error
```
Application type mismatch: The argument
  map_star f a
has type
  f (star a) = star (f a)
but is expected to have type
  ↑((NonUnitalAlgHom.codRestrict ?m.48 S.toNonUnitalSubalgebra ?m.56).toFun (star a)) =
    ↑(star ((NonUnitalAlgHom.codRestrict ?m.48 S.toNonUnitalSubalgebra ?m.56).toFun a))
in the application
  Subtype.ext (map_star f a)
```

Comment (themathqueen) [reply Mathlib/Algebra/Star/NonUnitalSubalgebra.lean]: really?? it works fine on my computer. weird...

Comment (themathqueen) [reply Mathlib/Algebra/Star/NonUnitalSubalgebra.lean]: are you sure you pulled the latest commit which changed the previous line?

Comment (grunweg) [reply Mathlib/Algebra/Star/NonUnitalSubalgebra.lean]: That was it, thanks! (Sorry, today's a tired day over here.)

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean [hunk 8]
```diff
@@ -446,66 +447,66 @@ end Submodule
...
 
 @[simp]
-theorem mem_range (φ : F) {y : B} :
-    y ∈ (NonUnitalAlgHom.range φ : NonUnitalSubalgebra R B) ↔ ∃ x : A, φ x = y :=
+theorem mem_range (φ : A →ₙₐ[R] B) {y : B} : y ∈ φ.range ↔ ∃ x : A, φ x = y :=
   NonUnitalRingHom.mem_srange
 
-theorem mem_range_self (φ : F) (x : A) :
-    φ x ∈ (NonUnitalAlgHom.range φ : NonUnitalSubalgebra R B) :=
+theorem mem_range_self (φ : A →ₙₐ[R] B) (x : A) : φ x ∈ (φ.range) :=
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]:
```suggestion
theorem mem_range_self (φ : A →ₙₐ[R] B) (x : A) : φ x ∈ φ.range :=
```

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean [hunk 9]
```diff
@@ -446,66 +447,66 @@ end Submodule
...
+    (f : A →ₙₐ[R] B) (S : NonUnitalSubalgebra R B) (hf : ∀ x : A, f x ∈ S) :
     Function.Injective (NonUnitalAlgHom.codRestrict f S hf) ↔ Function.Injective f :=
   ⟨fun H _x _y hxy => H <| Subtype.ext hxy, fun H _x _y hxy => H (congr_arg Subtype.val hxy :)⟩
 
 /-- Restrict the codomain of an `NonUnitalAlgHom` `f` to `f.range`.
 
 This is the bundled version of `Set.rangeFactorization`. -/
-abbrev rangeRestrict (f : F) : A →ₙₐ[R] (NonUnitalAlgHom.range f : NonUnitalSubalgebra R B) :=
+abbrev rangeRestrict (f : A →ₙₐ[R] B) :
+    A →ₙₐ[R] (NonUnitalAlgHom.range f : NonUnitalSubalgebra R B) :=
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]: may as well also use dot notation here since you ddi for the rest?
```suggestion
    A →ₙₐ[R] f.range :=
```

**Review by themathqueen — COMMENTED** [review]
Looks good! Thanks!

maintainer delegate

**Review by j-loreaux — COMMENTED** [review]
thanks!

bors merge

**Comment by grunweg** [comment]
CI error looks intermittent and unrelated:
bors merge
